US04024186
Preparation of 2,6-di-t-butyl-4-(2-methyl-2-nitropropyl)phenol.
2,6-di-t-butylphenol, 20.6 g, in 100 ml of stirred methanol containing 16.2 g of 37% aqueous formaldehyde (excess) was treated with a freshly prepared solution of 5.6 g of potassium hydroxide and 8.9 g of 2-nitropropane and heated under nitrogen for 21/2 hours. Upon cooling, 19.8 g of product, mp 101°-4° C., was obtained in two crops. Recrystallization from methanol afforded product melting 103.5°-105.5° C.

reactant | 2,6-di-t-butylphenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | formaldehyde | C=O | CH2O
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
reactant | 2-nitropropane | 8.9 g | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | methanol | 100 ml, 16.2 g | CO | CH4O
product | 2,6-di-t-butyl-4-(2-methyl-2-nitropropyl)phenol | 19.8 g | C(C)(C)(C)C1=C(C(=CC(=C1)CC(C)([N+](=O)[O-])C)C(C)(C)C)O | C18H29NO3
